US04322439
15.8 g of 3-[2-(N-methyl-4-chlorobenzamido)-phenyl]-propionic acid and 15 g of oxalyl chloride are stirred in toluene for 2 hours. After following evaporation in vacuo, the residue is taken up in 60 ml of dioxane and added dropwise to 1.6 g of sodium borohydride in 40 ml of dioxane. Heating to 100° is effected for 4 hours, followed by addition of 2 N hydrochloric acid in an ice bath to the end of the gas development. Extraction with diethyl ether yields 11.9 g of 3-[2-(N-methyl-4-chlorobenzamido)-phenyl]-propanol as oil, which is reacted without further purification in 80 ml of toluene with 3 g of pyridine and 6 g of tosyl chloride to the 3-[2-(N-methyl-4-chlorobenzamido)-phenyl]-propyl-tosylate (33 hours of stirring at room temperature). The chromatographic purification (silica gel, eluent methylene chloride) yields 6.1 g (31% of theory). This tosylate in 70 ml of ethanol is added dropwise to a solution of 0.35 g of sodium and 3.2 g of diethyl malonate in 60 ml of ethanol. Following heating under reflux for 24 hours, working up by extraction with methylene chloride and chromatographic purification with silica gel/chloroform yield 5.4 g (89% of theory) of diethyl-3-[2-N-methyl-4-chlorobenzamido)-phenyl]-propyl malonate as oil, which is used under (a).

reactant | 3-[2-(N-methyl-4-chlorobenzamido)-phenyl]-propionic acid | 15.8 g | CN(C(C1=CC=C(C=C1)Cl)=O)C1=C(C=CC=C1)CCC(=O)O | C17H16ClNO3
reactant | oxalyl chloride | 15 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(N-methyl-4-chlorobenzamido)-phenyl]-propanol | 11.9 g | CN(C(C1=CC=C(C=C1)Cl)=O)C1=C(C=CC=C1)CCCO | C17H18ClNO2
